US07807709B2
A. (3R*,4R*)-3-Cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
The title compound is prepared analogously as described for the title compound under J in Example 9 from (3S*,4R*)-3-formyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester and cyclopropylamine. TLC, Rf (CH2Cl2/MeOH 9:1+10 % NH4OH)=0.48. MS (LC-MS): 534.4 [M+H]+; tR (HPLC, Macherey-Nagel Nucleosil C18 column, 5-100% CH3CN/H20/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 4.53 min.

reactant | (3S*,4R*)-3-formyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C=O | C26H40N2O7
reactant | cyclopropylamine | C1(CC1)N | C3H7N
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
reactant | NH4OH | [NH4+].[OH-]
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
product | (3R*,4R*)-3-Cyclopropylaminomethyl-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)CNC1CC1 | C29H47N3O6
